US04771046
(3) (5R,6S)-2-[2-(3-Hydroxyiminopyrrolidin-1-yl)-2-iminoethylthio]-6-[(1R)-1-hydroxyethyl]-1-carbapen-2-em-3-carboxylic acid
0.21 ml of diisopropylethylamine and 0.22 ml of diphenylphosphoryl chloride were added dropwise to an ice-cooled solution of 363 mg of p-nitrobenzyl (5R,6S)-6-[(1R)-1-hydroxyethyl]-2-oxo-1-carbapenam-3-carboxylate in 5 ml of anhydrous acetonitrile, and the solution was stirred for one hour with ice-cooling. A solution of 0.18 ml of diisopropylethylamine and 282 mg of 2-(3-hydroxyiminopyrrolidin-1-yl)-2-iminoethylmercaptan hydrochloride in 3 ml of dimethylsulfoxide was added, and the mixture was then stirred for a further 20 minutes with ice-cooling. The reaction mixture was poured into 100 ml of anhydrous ether, and the solvent was decanted off from the gummy material which formed. This material was dissolved in a mixture of 20 ml of tetrahydrofuran, 7 ml of water and 23 ml of 0.1M phosphate buffer (pH 7.0), and the solution was catalytically hydrogenated at room temperature for 2 hours in the presence of 0.3 g of 10 % palladium-carbon. The product was worked up and purified in the same manner as in Example 2, giving 15 mg of the title compound.

reactant | diisopropylethylamine | 0.21 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | diphenylphosphoryl chloride | 0.22 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)Cl | C12H10ClOP
reactant | p-nitrobenzyl (5R,6S)-6-[(1R)-1-hydroxyethyl]-2-oxo-1-carbapenam-3-carboxylate | 363 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(C(C2)=O)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C16H16N2O7
reactant | diisopropylethylamine | 0.18 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-(3-hydroxyiminopyrrolidin-1-yl)-2-iminoethylmercaptan hydrochloride | 282 mg | Cl.ON=C1CN(CC1)C(CS)=N
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | dimethylsulfoxide | 3 ml | CS(=O)C | C2H6OS
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | water | 7 ml | O | H2O
solvent | phosphate | 0.1M, 23 ml, pH 7.0 | P(=O)([O-])([O-])[O-]
catalyst | palladium-carbon | 0.3 g | [C].[Pd]
solvent | ether | 100 ml | CCOCC | C4H10O
product | (5R,6S)-2-[2-(3-Hydroxyiminopyrrolidin-1-yl)-2-iminoethylthio]-6-[(1R)-1-hydroxyethyl]-1-carbapen-2-em-3-carboxylic acid | 15 mg | ON=C1CN(CC1)C(CSC=1C[C@H]2N(C1C(=O)O)C([C@@H]2[C@@H](C)O)=O)=N | C15H20N4O5S
